US06436962B1
Step B: Preparation of (+/−)-1-(2-cyanopropyl)-4-cyano-4-phenyl-piperidine
A solution of 1-(2-cyanoethyl)-4-cyano-4-phenyl-piperidine (2.81 g, 11.7 mmol) dissolved in tetrahydrofuran(110 mL) was cooled to −20° C. under an atmosphere of nitrogen and 1 M lithium bistrimethylsilylamide in tetrahydrofuran (12.3 ml) was added by syringe. The clear solution was allowed to stir for 30 min. and then methyl iodide (0.80 mL, 12.9 mmol) was added by syringe. This reaction mixture was stirred for 5 minutes and then warmed to room temperature and stirred for 30 minutes. The reaction was diluted with diethyl ether and washed with water and brine. The organic layer was dried over sodium sulfate, filtered, and the solvent removed to give an oil. This residue was purified by preparative centrifugal chromatography using a 5-50% ethyl acetate/hexane gradient to give the title compound which was used as is.

reactant | 1-(2-cyanoethyl)-4-cyano-4-phenyl-piperidine | 11.7 mmol, 2.81 g | C(#N)CCN1CCC(CC1)(C1=CC=CC=C1)C#N | C15H17N3
reactant | lithium bistrimethylsilylamide | 1 M | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | methyl iodide | 12.9 mmol, 0.80 mL | CI | CH3I
solvent | tetrahydrofuran | 110 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12.3 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | (+/−)-1-(2-cyanopropyl)-4-cyano-4-phenyl-piperidine | C(#N)C(CN1CCC(CC1)(C1=CC=CC=C1)C#N)C | C16H19N3
